*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :2012M(0805)/C0G(-55to125[deg])/5.60e-04[uF]/630[V]
* Murata P/N :GCM21A5C2J561GX01
* Property : C = 5.60e-04[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100[MHz]-3[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GCM21A5C2J561GX01 Port1 Port2
C01 Port1 N01 5.60e-10
R01 Port1 N01 1.00e+11
L02 N01 N02 1.77e-10
R03 N02 N03 1.27e-02
C04 N03 N04 8.90e-07
R04 N03 N04 1.67e-02
L05 N04 N05 8.56e-11
R05 N04 N05 3.49e-02
C06 N05 N06 3.64e-09
L06 N05 N06 1.55e-11
R06 N05 N06 4.88e-01
C07 N06 N07 5.93e-10
L07 N06 N07 3.78e-11
R07 N06 N07 1.07e+00
C08 N07 N08 3.24e-10
L08 N07 N08 1.84e-11
R08 N07 N08 4.52e-01
C09 N08 N09 3.66e-12
L09 N08 N09 8.04e-11
R09 N08 N09 4.95e+00
C10 N09 Port2 1.38e-12
L10 N09 Port2 2.12e-10
R10 N09 Port2 1.35e+03
.ENDS GCM21A5C2J561GX01
